US04358409
13.8 g of bromine were added dropwise to a solution of 11.5 g of sodium hydroxide in 60 ml of water at 5°-10° C., and a solution of 8.1 g (0.029 mol) of trans-3,3-dimethyl-2-(2-chloro-2-(4-chloro-phenyl)-vinyl)-1-acetylcyclopropane in 30 ml of dioxane was then added dropwise at 0°-5° C. The mixture was subsequently stirred for 3 hours, without cooling, pouredonto 250 ml of water and extracted twice with 50 ml of ether each time. The aqueous phase was freed from adhering ether in vacuo and then brought to pH 2 by adding aqueous hydrochloric acid. After crystallization, the product was filtered off and rinsed with water. 6.2 g (77% of theory) of trans-3,3-dimethyl-2-(2-chloro-2-(4-chlorophenyl)-vinyl)-cyclopropanecarboxylic acid were thus obtained in the form of pale yellow-colored crystals with a melting point of 103°-106° C.

reactant | bromine | 13.8 g | BrBr | Br2
reactant | sodium hydroxide | 11.5 g | [OH-].[Na+]
reactant | trans-3,3-dimethyl-2-(2-chloro-2-(4-chloro-phenyl)-vinyl)-1-acetylcyclopropane | 0.029 mol, 8.1 g | CC1([C@H]([C@@H]1C(C)=O)C=C(C1=CC=C(C=C1)Cl)Cl)C | C15H16Cl2O
solvent | water | 60 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 250 ml | O | H2O
product | trans-3,3-dimethyl-2-(2-chloro-2-(4-chlorophenyl)-vinyl)-cyclopropanecarboxylic acid | 6.2 g, 77% | CC1([C@H]([C@@H]1C(=O)O)C=C(C1=CC=C(C=C1)Cl)Cl)C | C14H14Cl2O2
